US07612114B2
6-{2-{[4-(2-Azocan-1-ylethoxy)benzyl]isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8tetrahydronaphthalen-2-yl ester (30 mg) and 1-azocan-1-yl-2-chloroethanone (22 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (20 mg) was obtained.

reactant | pivalic acid 6-{2-[(4-hydroxybenzoyl)isopropylamino]-4-methoxyphenyl}-5,6,7,8tetrahydronaphthalen-2-yl ester | 30 mg | OC1=CC=C(C(=O)N(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C(C)C)C=C1 | C32H37NO5
reactant | 1-azocan-1-yl-2-chloroethanone | 22 mg | N1(CCCCCCC1)C(CCl)=O | C9H16ClNO
product | 6-{2-{[4-(2-Azocan-1-ylethoxy)benzyl]isopropylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 20 mg | N1(CCCCCCC1)CCOC1=CC=C(CN(C2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C(C)C)C=C1 | C36H48N2O3
